US09193689B2
To a stirred solution of 2,3-dimethyl-benzoic acid (1.52 g, 10.1 mmol) in CH2Cl2/DMF (118 mL/12 mL) was added N,N-diisopropylethylamine (1.76 mL, 10.1 mmol) and TBTU (3.25 g, 10.1 mmol) and the reaction mixture stirred at RT for 50 min. N,N-diethylamine (1.58 mL, 15.2 mmol) was added and the reaction mixture stirred for 18 h. The reaction mixture was washed with 10% Na2CO3 solution (2×100 mL) and concentrated in vacuo. The crude material was purified by silica gel column chromatography, eluting with isohexane and increasing the polarity to 30% EtOAc/isohexane to obtain N,N-diethyl-2,3-dimethyl-benzamide as a colourless liquid (1.48 g, 72%).

reactant | 2,3-dimethyl-benzoic acid | 10.1 mmol, 1.52 g | CC1=C(C(=O)O)C=CC=C1C | C9H10O2
reactant | N,N-diisopropylethylamine | 10.1 mmol, 1.76 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | TBTU | 10.1 mmol, 3.25 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diethylamine | 15.2 mmol, 1.58 mL | C(C)NCC | C4H11N
solvent | CH2Cl2 DMF | 118 mL | C(Cl)Cl.CN(C)C=O
product | N,N-diethyl-2,3-dimethyl-benzamide | 1.48 g, 72% | C(C)N(C(C1=C(C(=CC=C1)C)C)=O)CC | C13H19NO
